Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
 Pt has been complaining of headache x 2 weeks.
 
Major Surgical or Invasive Procedure:
Left sided burr hole for ___ evacuation

 
History of Present Illness:
HPI:  Pt is a ___ yo female w/ PMHx sig for rheumatic fever s/p
mitral valve replacement and aortic valve replacement on
Coumadin, atrial fibrillation, and hypertension transferred from
OSH with larger L SDH.  Pt has been complaining of headache x 2
weeks.  Pain is left sided towards the vertex w/ intermittent R
hand numbness.  She also feels that her R hand has been on/off
clumsy over the same period of time.  ~ 1.5 weeks ago she had a
root canal.  She complained of headache to PCP who got an
outpatient MRI today that showed a large L SDH.  Pt was
instructed to go to ER at ___ where she received
10 mg of SC Vit K and IV Keppra.  She was then transferred to
___ for further management.

 
Past Medical History:
Past Medical History: atrial fibrillation, rheumatic fever s/p
AVR and MVR w/ St. ___ valve though unclear which one,
hypertension, hypercholesterolemia, CHF.

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: T 97.5; BP 130/80; P 70; RR 16; O2 sat 100%

General: lying in bed NAD
HEENT: NCAT, moist mucous membranes
Neck: supple
Extremities: no c/c/e.

Neurological Exam:
Mental status: A & O x3. Fluent speech with no
paraphasic or phonemic errors.  Adequate comprehension.  Follows
simple and multi-step commands.  Repetition intact (no ifs, ands
or buts.  Able to name low and high frequency objects. 

Cranial Nerves:
I: Not tested
II: PERRL, 4-->2mm with light. 
III, IV, VI: EOMI. no nystagmus.
V, VII: facial sensation intact, facial strength
IX, X: Palatal elevation symmetrical.
XII: Tongue midline without fasciculations.

Motor: Normal bulk. Normal tone. Mild R pronator drift.  Full
strength throughout.

Sensation: intact to light touch

Reflexes: 3+ on R, 2+ on L
Toes downgoing bilaterally.

Coordination: FNF intact.

Upon discharge:
Oriented x 3. PERRL. EOMs intact.
Full strength throughout.
Incision well healed. Sutures have been removed. 

 
Pertinent Results:
CT ___ W/O CONTRAST ___ 
Bilateral subdural hematomas, larger on the left with mixed 
attenuation consistent with acute-on-chronic subdural hematoma. 
Mass effect on subjacent sulci and 4 mm rightward shift of 
normally midline structures not significantly changed from the 
prior MR. 

___ CT ___ 
IMPRESSION: 
1. While there is decrease in size of the left-sided subdural 
hemorrhage 
along the convexity, there is persistent dense area of 
hemorrhage noted 
anteriorly measuring 3.6 x 0.9 cm. Expected post-surgical 
changes are noted. 
2. Right frontal subdural collection, which is iso- to slightly 
hyperdense, measures 3.2 x 0.8 cm is unchanged. 
3. Unchanged appearance of the right posterior falcine and right 
tentorial 
subdural hemorrhage. 

___ CT ___ 
IMPRESSION: 
Stable appearance of the subacute left hemispheric subdural 
hemorrhage with decrease in size of more acute component 
superiorly. 

___ CT ___
Impression (Prelim Read - no final at time of this writing) 
Small area of acute hemorrhage within the left subdural 
collection. No increase in size and no significant mass effect.

___ CT ___:
Left SDH unchanged in size. Stable midline shift. Unchanged 
right SDH. 

Labs upon discharge:
___ 06:15AM BLOOD ___ PTT-34.2 ___
 
Brief Hospital Course:
Mrs. ___ was evaluated in the Emergency department and upon 
review of her scan and discovery of her left holohemespheric 
SDH. She was given FFP to reverse her INR. Dr. ___ spoke with 
the patient's son and a decision was made to take the patient to 
the OR to perform a burr whole for SDH drainage.

Post operatively patient remains nonfocal. Her post operative 
___ CT shows good re-expansion. Patient has a history of AVR 
and MVR and is off her coumadin s/p L burr hole for evacuation 
of L SDH. Cardiology was consulted for evaluation of St. ___ 
valve and determination of how long patient can remain off her 
coumadin. Upon their evaluation, it was determined that the 
patient can restart heparin drip in 7 days and transition to 
coumadin. TTE showed LVEF >55%, 3+ tricuspid regurgitation, and 
slight left ventricular hypertrophy.  A Heparin gtt was started 
on ___ AM, and Coumadin was initiated ___ ___. On ___, 
patient's INR was 1.5 and she was given a bolus of coumadin at 
5mg. In the morning, her INR was 1.9, she then recieved a bolous 
of 7.5mg coumadin and was found to be theraputic on ___ with an 
INR of 2.5. She will follow up with her primary care physician 
and the ___ clinic for further management of her levels. 
Prior to discharge she was found to have a small amount of acute 
bleeding on ___ CT. She was kept overnight and CT in the am was 
stable. She was given 5 mg of coumadin prior to discharge and 
will follow-up in the coumadin clinin on ___.

On discharge patient continues to be alert and oriented x 3, ___ 
strength in all extremities. Face is symmetrical and tongue 
midline. Pupils are equal and reactive. 
 
Medications on Admission:
Atenolol, Enalapril, Simvastatin, Warfarin,
Furosemide (does not know doses).

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
2. Levetiracetam 750 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*1*
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Enalapril Maleate 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for for h/a.  
9. Coumadin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day for 
3 days.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left hemespheric Subdural Hematoma
H/o Systolic CHF

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
General Instructions

•Have a family member check your incision daily for signs of 
infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may wash your hair 
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 
• You have been restarted on your coumadin. You need to go to 
the ___ clinic to have your doses adjusted.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___